US06525202B2
[4-(4-Oxo-piperidine-1-yl)-phenyl]-acetic acid
1-[4-(1,4-Dioxa-8-aza-spiro[4.5]dec-8-yl)-phenyl]-ethanone (2.61 g, 10 mmol) (Taylor, E. C., Skotnicki, J. S. Synthesis, 1981, 606) was added to a solution of thallium trinitrate trihydrate (4.44 g, 10 mmol) (McKillop, A., Swann, B. P., Taylor, E. C. J. Am. Chem. Soc., 1971, 93, 4919) in methanol (40 mL) and methylene chloride (20 mL) containing perchloric acid (70%, 10 mL). After 5 hours at room temperature the precipitated thallium (I) nitrate was removed by filtration, and the filtrate was diluted with water (100 mL). The organic phase was separated, the aqueous layer was extracted with methylene chloride, and the combined organic phases were washed with water, dried over sodium sulfate and concentrated. The residue was dissolved in concentrated hydrochloric acid (250 mL) at room temperature. After 3 hours the solution pH was adjusted to 5 by ˜28% ammonium hydroxide. The aqueous layer was extracted with methylene chloride, and the combined organic phases were washed with water, dried over sodium sulfate and concentrated. The product was purified by chromatography on silica gel with ethyl acetate/hexanes eluant to give the title compound as a pale yellowish solid (0.4 g, 17%); 1H NMR (300 MHz, DMSO-d6) δ 2.42 (t, J=6.0 Hz, 4H), 3.41 (s, 2H), 3.56 (t, J=6.0 Hz, 4H), 6.98 (d, J=8.7 Hz, 2H), 7.12 (d, J=8.7 Hz, 2H), 12.20 (s, 1H); MS (ES) m/z: 234.3 (MH+); HRMS Calcd. for C13H15NO3 (M+): 233.1052. Found: 233.1045.

reactant | 1-[4-(1,4-Dioxa-8-aza-spiro[4.5]dec-8-yl)-phenyl]-ethanone | 10 mmol, 2.61 g | O1CCOC12CCN(CC2)C2=CC=C(C=C2)C(C)=O | C15H19NO3
reactant | thallium trinitrate trihydrate | 10 mmol, 4.44 g | O.O.O.[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[Tl+3]
reactant | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
reactant | perchloric acid | 10 mL | Cl(=O)(=O)(=O)O | ClHO4
solvent | methanol | 40 mL | CO | CH4O
product | [4-(4-Oxo-piperidine-1-yl)-phenyl]-acetic acid | 0.4 g, 17% | O=C1CCN(CC1)C1=CC=C(C=C1)CC(=O)O | C13H15NO3
